US07897593B2
Benzyl 4-((2-chloroethoxy)methyl)-4-cyanopiperidine-1-carboxylate.
A solution of benzyl 4-cyanopiperidine-1-carboxylate (10.0 g, 41 mmol) and 2-chloroethyl chloromethyl ether (6.3 mL, 49.2 mmol) in THF (80 mL) was cooled to −78° C. To this solution was added drop wise LiHMDS (50 mL, 50 mmol, 1N in THF) and the resulting mixture was gradually warmed to room temp over 5 h. The reaction was quenched with water and the organic phase was washed with brine, dried (Na2SO4) and concentrated. The residue was purified by flash chromatography (1:1 EtOAc/hexane) to give the title compound as yellow oil (11.9 g, 86% yield). 1H NMR (300 MHz, CDCl3) δ: 7.33-7.31 (5H, m), 5.10 (2H, d, J=5.9 Hz), 4.21 (2H, bs), 3.79-3.76 (2H, m), 3.63-3.60 (2H, m), 3.52-3.51 (2H, m), 3.09 (2H, bs), 1.96-1.92 (2H, m), 1.55-1.51 (2H, m).

reactant | benzyl 4-cyanopiperidine-1-carboxylate | 41 mmol, 10.0 g | C(#N)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C14H16N2O2
reactant | 2-chloroethyl chloromethyl ether | 49.2 mmol, 6.3 mL | ClCOCCCl | C3H6Cl2O
reactant | LiHMDS | 50 mmol, 1N, 50 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | Benzyl 4-((2-chloroethoxy)methyl)-4-cyanopiperidine-1-carboxylate | 11.9 g, 86% yield | ClCCOCC1(CCN(CC1)C(=O)OCC1=CC=CC=C1)C#N | C17H21ClN2O3
